US06949579B2
9.5 cm of tetrabutylammonium fluoride as a 1M solution in tetrahydrofuran are added to 0.73 g of N-[6-chloro-5-(4-fluorophenyl)-1-[[2-(trimethylsilyl)ethoxy]-methyl]-1H-indazol-3-yl]butanamide, described previously, in 20 cm3 of tetrahydrofuran, and the mixture is refluxed for 18 hours; after cooling, 30 cm3 of ethyl acetate are added and the organic phase is washed successively with 2×20 cm3 of saturated sodium hydrogen carbonate solution and with 20 cm3 of saturated sodium chloride solution. The organic phase is separated out after settling of the phases has taken place, dried over magnesium sulphate, filtered and concentrated to dryness under reduced pressure (2 kPa; 50° C.); the crude product obtained is purified by chromatography under an argon pressure of 50 kPa, on a column of silica gel (particle size 40-60 μm; diameter 3.5 cm), eluting with a cyclohexane/ethyl acetate mixture (70/30 by volume). The fractions containing the expected product are combined and evaporated under reduced pressure (2 kPa; 50° C.) and dried (90 Pa; 45° C.) to give 200 mg of N-[6-chloro-(4-fluorophenyl)-1H-indazol-3-yl]butanamide in the form of a cream-coloured powder.

reactant | tetrabutylammonium fluoride | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | N-[6-chloro-5-(4-fluorophenyl)-1-[[2-(trimethylsilyl)ethoxy]-methyl]-1H-indazol-3-yl]butanamide | 0.73 g | ClC1=C(C=C2C(=NN(C2=C1)COCC[Si](C)(C)C)NC(CCC)=O)C1=CC=C(C=C1)F | C23H29ClFN3O2Si
reactant | ethyl acetate | 30 cm3 | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 cm3 | O1CCCC1 | C4H8O
product | N-[6-chloro-(4-fluorophenyl)-1H-indazol-3-yl]butanamide | 200 mg | ClC1=CC=C2C(=NN(C2=C1)C1=CC=C(C=C1)F)NC(CCC)=O | C17H15ClFN3O
